US07858640B2
[8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yloxy]acetic acid
A solution of [8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yloxy]-acetic acid methyl ester (0.11 g), methanol (5.0 mL), water (1.0 mL) and saturated aqueous lithium hydroxide solution (0.5 mL) was stirred at room temperature for 3 days. The pH of the solution was adjusted to 4 by the addition of glacial acetic acid and the methanol removed under reduced pressure. The resulting precipitate was collected by filtration, washed with water and dried to afford title compound as a white solid, 0.08 g.

reactant | [8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yloxy]-acetic acid methyl ester | 0.11 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)CC1=CC=C(C=C1)S(=O)(=O)C)C)=O | C22H22ClNO5S
reactant | methanol | 5.0 mL | CO | CH4O
reactant | water | 1.0 mL | O | H2O
reactant | lithium hydroxide | 0.5 mL | [OH-].[Li+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yloxy]acetic acid | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=CC=C(C=C1)S(=O)(=O)C)C)OCC(=O)O | C21H20ClNO5S
